US07888376B2
To a solution of 3-(3-(1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)ureido)-3-methylbutanoic acid (17.4 mg, 0.03 mmol) in DMF (1 mL) was added HOBt (20 mg, 0.148 mmol) and EDCI (29 mg, 0.151 mmol). The resulting mixture was stirred at room temperature over night, followed by addition of NH4OH (1 mL). After 5 min, the reaction mixture was concentrated and the residue was purified by preparative HPLC Shimadzu-AXIA column, 30×100 mm eluting with 30-100% MeOH (90% in H2O, 0.1% TFA) gradient over 12 min with flow rate 40 mL/min and UV detection at 220 nm to give 3-(3-(1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)ureido)-3-methylbutanamide as a white foam (15.5 mg, 88% yield). LCMS: RT=1.99 min [M+H] 585.3 (LCMS Method 2); NMR: 400 MHz 1H (CDCl3) 8.30 ppm, 1H, d, J=2.0 Hz; 7.75 ppm, 1H, dd, J=8.7, 2.4 Hz; 7.44 ppm, 1H, br. s; 7.16 ppm, 5H, m; 6.99 ppm, 1H, s; 6.92 ppm, 1H, d, J=8.8 Hz; 6.67 ppm, 1H, br. s; 6.57 ppm, 2H, d, J=7.1 Hz; 5.97 ppm, 1H, t, J=53 Hz; 4.10 ppm, 1H, d, J=12.9 Hz; 3.63 ppm, 1H, d, J=13.1 Hz; 2.97 ppm, 1H, d, d=13.1 Hz; 2.44 ppm, 1H, d, J=13.1 Hz; 1.47 ppm, 3H, s; 1.36 ppm, 3H, s.

reactant | 3-(3-(1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)ureido)-3-methylbutanoic acid | 0.03 mmol, 17.4 mg | ClC=1C=CC(=NC1)C(CC1=CC=CC=C1)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)NC(NC(CC(=O)O)(C)C)=O | C27H25ClF5N3O4
reactant | HOBt | 0.148 mmol, 20 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.151 mmol, 29 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | NH4OH | 1 mL | [NH4+].[OH-]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3-(3-(1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)ureido)-3-methylbutanamide | 15.5 mg, 88% yield | ClC=1C=CC(=NC1)C(CC1=CC=CC=C1)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)NC(NC(CC(=O)N)(C)C)=O | C27H26ClF5N4O3
